US08461196B2
A. Preparation of (±)-1-(3,4-dichloro-phenyl)-(r/s)-2-hydroxymethyl-cyclopropanecarbonitrile
To an oven-dried, three-necked, 500 mL round-bottomed flask was added the compound 3,4-dichlorobenzonitrile and THF with stirring under argon. The solution was cooled to −25° C. in a dry ice/MeCN bath and charged with 5.3 g of sodium amide. The resulting yellow suspension became orange upon stirring and was warmed to ambient temperature over 2 hours. The brown mixture was cooled to −25° C. and epichlorohydrin was added drop-wise over 10 minutes followed by a second equivalent of sodium amide in one portion. The golden brown mixture was stirred at −25° C. and warmed to 15° C. over 8 h. The dark red-colored mixture was poured (with stirring) into 500 mL of saturated ammonium chloride. The organic phase was separated and dried over magnesium sulfate for 12 h. The mixture was filtered and concentrated under reduced pressure and dried to afford 31 g of red oil. Half of the material was loaded onto a silica gel (250 g) column and eluted first with hexane. Later the polarity was increased to 10% EtOAc in hexanes and finally to 20% EtOAc in hexanes. Tubes containing the product were combined and concentrated, and dried under a high vacuum to give the product as a mixture of diastereomers. Yield: 6.8 g (42%); LCMS: (+) ESI: m/z=242 [M]+; 1H NMR (300 MHz, CDCl3, peaks corresponding to syn isomer listed) δ 7.43 (m, 2H, ArH), 7.7.14 (m, 1H, ArH), 4.09 (dd, 1H, CHOH, J=12 Hz and 4.8 Hz), 3.74 (dd, 1H, CHOH, J=12 Hz and 8.4 Hz), 2.73 (bs, 1H, OH), 1.91 (m, 1H, ArCCH2CH), 1.62 (m, 2H, ArCCH2CH).

reactant | 3,4-dichlorobenzonitrile | ClC=1C=C(C#N)C=CC1Cl | C7H3Cl2N
reactant | sodium amide | 5.3 g | [NH2-].[Na+]
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
reactant | THF | C1CCOC1 | C4H8O
product | (±)-1-(3,4-dichloro-phenyl)-(r/s)-2-hydroxymethyl-cyclopropanecarbonitrile | 31 g | ClC=1C=C(C=CC1Cl)C1(C(C1)CO)C#N | C11H9Cl2NO
